US07834190B2
Production of methyl (4S,5S)-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxylate
Acetonitrile (15 ml) was added to methyl (2S,3R)-3-propyl-2-oxiranecarboxylate (1.42 g, 9.8 mmol). The mixture was cooled to 5° C., and boron trifluoride diethyl ether complex (1.24 g, 11 mmol) was gradually added dropwise. The mixture was stirred at room temperature for 6 hours, and saturated aqueous solution of sodium hydrogencarbonate (20 ml) was added. The mixture was concentrated, and was extracted with ethyl acetate (30 ml). The organic layer was washed with water (10 ml×2), and the solvent was evaporated away under reduced pressure. The concentrated residue was purified by silica gel column chromatography to obtain the title compound as a colorless oil (1.23 g, yield: 76%).

reactant | methyl (2S,3R)-3-propyl-2-oxiranecarboxylate | 9.8 mmol, 1.42 g | C(CC)[C@@H]1[C@H](O1)C(=O)OC | C7H12O3
reactant | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
reactant | Acetonitrile | 15 ml | C(C)#N | C2H3N
product | methyl (4S,5S)-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxylate | 1.23 g, yield: 76% | CC=1O[C@@H]([C@@H](N1)CCC)C(=O)OC | C9H15NO3
